US04694066
A. 4-(4,5-Epoxypentoxy)-4'-nitrobiphenyl
To 250 ml of methylene chloride is added 28.3 g of 4-(4-penteneoxy)-4'-nitrobiphenyl. The solution is cooled to 0° C., and 18 g of meta-chloroperbenzoic acid is added slowly. The mixture is stirred at 0° C. for 24 hours, and allowed to warm to room temperature.

reactant | 4-(4-penteneoxy)-4'-nitrobiphenyl | 28.3 g | C(CCC=C)OC1=CC=C(C=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C17H17NO3
reactant | meta-chloroperbenzoic acid | 18 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 4-(4,5-Epoxypentoxy)-4'-nitrobiphenyl | O1C(CCCOC2=CC=C(C=C2)C2=CC=C(C=C2)[N+](=O)[O-])C1 | C17H17NO4
